US09315521B2
To a solution of (3-chloro-5-ethylpyridin-4-yl)methanol (1.83 g, 10.66 mmol) in anhydrous chloroform (40 mL) was added dropwise tribromophosphane (2.91 g, 1.01 mL, 10.75 mmol) at 0° C. The reaction mixture was allowed to stir overnight at room temperature. The solvent was evaporated to provide crude 4-(bromomethyl)-3-chloro-5-ethylpyridine, which was used in the next step without further purification.

reactant | (3-chloro-5-ethylpyridin-4-yl)methanol | 10.66 mmol, 1.83 g | ClC=1C=NC=C(C1CO)CC | C8H10ClNO
reactant | tribromophosphane | 10.75 mmol, 1.01 mL, 2.91 g | BrP(Br)Br | Br3P
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(bromomethyl)-3-chloro-5-ethylpyridine | BrCC1=C(C=NC=C1CC)Cl | C8H9BrClN
